US07491733B2
Step 1: 2-carboxyethylbenzothiophene (G)
Ethyl 2-mercaptoacetate is added to a solution of dimethylformamide (800 ml), 2-nitrobenzaldehyde (73 g, 0.48 mol) and potassium carbonate (80 g, 0.57 mol) cooled to 0° C., while the temperature is maintained at 0° C. After stirring for 24 hours, the mixture is poured into 2 l of water and this aqueous phase is extracted with ether. The ether phase is dried over sodium sulfate and concentrated. The crude product obtained is purified on a column of alumina (petroleum ether) to give 34 g (35%) of a yellow oil.

reactant | Ethyl 2-mercaptoacetate | SCC(=O)OCC | C4H8O2S
reactant | dimethylformamide | 800 ml | CN(C=O)C | C3H7NO
reactant | 2-nitrobenzaldehyde | 0.48 mol, 73 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | potassium carbonate | 0.57 mol, 80 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 2 l | O | H2O
product | 2-carboxyethylbenzothiophene | 34 g, 35% | C(=O)(O)CCC=1SC2=C(C1)C=CC=C2 | C11H10O2S
